US09315521B2
2-({[2-chloro-4-(4-ethylpiperazin-1-yl)phenyl]methyl}sulfanyl)-6-methylpyrimidin-4-ol
1-[4-(bromomethyl)-3-chlorophenyl]-4-ethylpiperazine, 6-methyl-2-sulfanylpyrimidin-4-ol (1.42 g, 10 mmol) and triethylamine (2.8 mL, 20 mmol) were mixed in ethanol (50 mL). The mixture was stirred at room temperature for 2 hours. After evaporation, water (100 mL) was added. The suspension was filtered and washed with water and ethyl acetate to provide crude product, which was further purified by CombiFlash to yield a white solid (400 mg, 5% overall yield); 1H NMR (400 MHz, DMSO-d6): δ 1.16 (t, 3H), 2.20 (s, 3H), 2.48 (q, 4H), 3.06 (q, 4H), 4.35 (s, 2H), 5.98 (br, 1H), 6.88 (d, 1H), 7.00 (s, 1H), 7.42 (d, 1H); M+379.

reactant | 1-[4-(bromomethyl)-3-chlorophenyl]-4-ethylpiperazine | BrCC1=C(C=C(C=C1)N1CCN(CC1)CC)Cl | C13H18BrClN2
reactant | 6-methyl-2-sulfanylpyrimidin-4-ol | 10 mmol, 1.42 g | CC1=CC(=NC(=N1)S)O | C5H6N2OS
reactant | triethylamine | 20 mmol, 2.8 mL | C(C)N(CC)CC | C6H15N
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 2-({[2-chloro-4-(4-ethylpiperazin-1-yl)phenyl]methyl}sulfanyl)-6-methylpyrimidin-4-ol | ClC1=C(C=CC(=C1)N1CCN(CC1)CC)CSC1=NC(=CC(=N1)O)C | C18H23ClN4OS
